data/rdb19/train.csv
rxn,smiles,ea
4250,[C:1]([O:2][C:3]([O:4])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:8])([H:9])[H:10].[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],4.588911134167574
4860,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[C:17]([C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([C:18]([H:28])([H:29])[H:30])[H:27])[H:11])([H:8])([H:9])[H:10].[N:19]([C:20](=[O:21])[H:32])[H:31],67.84112213319167
2589,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35].[c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43],88.58323042537086
5353,[C:17]([C:18]([C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([c:3]1[c:4][c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:12][C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36],34.64214105956489
5151,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])([H:36])[H:37])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1[C:6]([H:20])([C:27]([C:26]([C:25]([H:33])([H:34])[H:35])([H:36])[H:37])([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])[C:7]([H:21])=[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],18.17308494553436
1955,[C:11]([C:12]([O:13][C:14](=[O:15])[C:16]([C:17]([H:27])([H:28])[H:29])([C:18]([H:19])[H:20])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N+:1]([C:2]([O-:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])([H:7])[C:18]([C:16]([C:14]([O:13][C:12]([C:11]([H:21])([H:22])[H:23])([H:24])[H:25])=[O:15])([C:17]([H:27])([H:28])[H:29])[H:26])([H:19])[H:20],34.18335583008593
511,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:21])([H:22])[H:23])([O:11][C:12](=[O:13])[C:14]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([O:2])([H:4])([H:5])[H:6].[O:3]1[C:12]([O:11][C:9]([C:8]([C:7]([H:15])([H:16])[H:17])([H:18])[H:19])([C:10]([H:21])([H:22])[H:23])[H:20])([C:14]([H:24])([H:25])[H:26])[O:13]1,66.65500968019478
1349,[C:10]([C:11]([C:12]([H:13])[C:14](=[O:15])[N:16]([H:22])[H:23])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([H:13])[C:14](=[O:15])[N:16]([H:22])[H:23])[H:7])[H:6],12.973136068030726
4699,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17](=[C:18]([N:19][C:20](=[O:21])[H:26])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10],32.22546382981818
1563,[C:10]([C:11]([C:12]([H:13])[N:14]([C:15](=[O:16])[H:23])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([H:13])[N:14]([C:15](=[O:16])[H:23])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],31.45948250865331
